US09428511B2
Step 3: (R)-tert-Butyl 4-amino-3,3-dimethylpiperidine-1-carboxylate (Intermediate 4)
A pressure bottle was charged with palladium on carbon (0.192 g, 0.180 mmol) and (R)-tert-butyl 3,3-dimethyl-4-((R)-1-phenylethylamino)piperidine-1-carboxylate (3.00 g, 9.02 mmol) in ethanol (60 mL) and the resulting mixture was shaken under 50 psi of hydrogen on a Parr apparatus. After 5 h, the catalyst was removed by filtration, rinsed with methanol, and the filtrate was concentrated in vacuo to afford the title compound as a clear oil (2.0 g, 8.76 mmol, 97%). Material was not further purified and was used directly in next transformation. 1H NMR (500 MHz, methanol-d4) δ 4.07 (d, J=13.0 Hz, 1H), 3.78-3.62 (m, 1H), 3.01-2.62 (m, 2H), 2.56 (dd, J=11.1, 4.2 Hz, 1H), 1.74-1.63 (m, 1H), 1.51 (s, 9H), 1.49-1.43 (m, 1H), 1.00 (s, 3H), 0.88 (s, 3H).

reactant | (R)-tert-butyl 3,3-dimethyl-4-((R)-1-phenylethylamino)piperidine-1-carboxylate | 9.02 mmol, 3.00 g | CC1(CN(CC[C@H]1N[C@H](C)C1=CC=CC=C1)C(=O)OC(C)(C)C)C | C20H32N2O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.180 mmol, 0.192 g | [Pd] | Pd
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | (R)-tert-Butyl 4-amino-3,3-dimethylpiperidine-1-carboxylate | 8.76 mmol, 2.0 g, 97% | N[C@H]1C(CN(CC1)C(=O)OC(C)(C)C)(C)C | C12H24N2O2
